US05457134
Synthesis of 3,4,4-trifluoro-3-butenoic acid, 2-(3,4,4-trifluoro-1-oxo-3-butenyl)hydrazide (Compound 120)
A solution of 3,4,4-trifluoro-3-butenoyl chloride (2.4 g, 0.0151 mole) in dry ether (20 mL) is treated dropwise with anhydrous hydrazine (0.48 g, 0.15 mole) with stirring at -78° C. The mixture is allowed to reach room temperature and the white precipitate is filtered and dissolved in ethyl acetate. The ethyl acetate solution is washed with 5% sodium bicarbonate and dried. Evaporation of the solvent gave 1.1 g of the desired product as a white solid, a 47% yield. m.p. 191°-193° C.

reactant | 3,4,4-trifluoro-3-butenoyl chloride | 0.0151 mole, 2.4 g | FC(CC(=O)Cl)=C(F)F | C4H2ClF3O
reactant | hydrazine | 0.15 mole, 0.48 g | NN | H4N2
solvent | ether | 20 mL | CCOCC | C4H10O
product | 3,4,4-trifluoro-3-butenoic acid, 2-(3,4,4-trifluoro-1-oxo-3-butenyl)hydrazide | 1.1 g, 47% yield | FC(CC(=O)NNC(CC(=C(F)F)F)=O)=C(F)F | C8H6F6N2O2
